US07166744B2
(2E,4E,6E,8E)-[3,7-dimethyl-9-(2,6,6-trimethylcyclohex-1-enyl)-nona-2,4,6,8-tetraenoyl]-(2,4-dihydroxy)phenylamide (KCBG08) (0.10 g, 0.24 mmol) was dissolved in anhydrous CH2Cl2 (15 mL), and NMM (0.049 g, 0.49 mmol) was added. To the resulting mixture was added dropwise butyryl chloride (0.050 mL, 0.49 mmol) at 0° C., and the resulting solution was stirred for 0.5 h. Finely ground K2CO3 (0.30 g) and MeOH (3 mL) was added to the reaction mixture. After stirring for 1 h, the completion of the reaction was confirmed by TLC. The mixture was washed with CH2Cl2 (30 mL) and H2O (20 mL). The organic layer was dried over anhydrous MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography over silica gel (EtOAc:hexane=1:4) to give 2-[(2E,4E,6E,8E]-3,7-dimethyl-9-(2,6,6-trimethylcyclohex-1-enyl)-nona-2,4,6,8-tetraenoylamino)-5-hydroxyphenyl butanoate (KCBG10, 97 mg, 83%) as a yellow solid.

reactant | (2E,4E,6E,8E)-[3,7-dimethyl-9-(2,6,6-trimethylcyclohex-1-enyl)-nona-2,4,6,8-tetraenoyl]-(2,4-dihydroxy)phenylamide | 0.24 mmol, 0.10 g | C\C(=C/C(=O)[N-]C1=C(C=C(C=C1)O)O)\C=C\C=C(\C=C\C1=C(CCCC1(C)C)C)/C
reactant | NMM | 0.49 mmol, 0.049 g | CN1CCOCC1 | C5H11NO
reactant | butyryl chloride | 0.49 mmol, 0.050 mL | C(CCC)(=O)Cl | C4H7ClO
reactant | K2CO3 | 0.30 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3 mL | CO | CH4O
product | 2-[(2E,4E,6E,8E]-3,7-dimethyl-9-(2,6,6-trimethylcyclohex-1-enyl)-nona-2,4,6,8-tetraenoylamino)-5-hydroxyphenyl butanoate | 97 mg, 83% | C(CCC)(=O)OC1=C(C=CC(=C1)O)NC(\C=C(\C=C\C=C(\C=C\C1=C(CCCC1(C)C)C)/C)/C)=O | C30H39NO4
